US07429581B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid
To a solution of 400 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester in 5 ml THF and 1 ml water, 1 ml aqueous NaOH (1M) were added and the mixture was stirred for 16 h at RT. Then the solution was acidified to pH 3 with half concentrated hydrochloric acid to precipitate the pure product, which was collected by filtration. Yield: 360 mg.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)C1=NN(C(=C1)C=1OC=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C18H14ClN3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | NaOH | 1M, 1 ml | [OH-].[Na+]
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1C=1OC=CC1)C(=O)O | C16H10ClN3O4S
